US06858651B2
A solution of 250 mg (0.59 mmol) of trans-N-[4-(5-Chloro-pent-1-ynyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide in 10 ml butan-2-one was treated with 136 mg of NaI (0.91 mmol) and heated at 80° C. for 48 h. Evaporation gave 330 mg of crude trans-N-[4-(5-Iodo-pent-1-ynyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide which was used directly for the next step, MS: 514 (MH+).

reactant | trans-N-[4-(5-Chloro-pent-1-ynyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 0.59 mmol, 250 mg | ClCCCC#C[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H23ClF3NO2S
reactant | NaI | 0.91 mmol, 136 mg | [Na+].[I-]
solvent | butan-2-one | 10 ml | CC(CC)=O | C4H8O
product | trans-N-[4-(5-Iodo-pent-1-ynyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 330 mg | ICCCC#C[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H23F3INO2S
